US07700641B2
Synthesis of 1′-pentyl-5-phenoxyspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 36, and making non-critical variations using 5-bromo-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one to replace 6-bromo-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one, the title compound was obtained (10% yield) as a colorless oil: 1H NMR (300 MHz, CDCl3) δ 7.32-7.10 (m, 5H), 7.06-6.82 (m, 6H), 6.42 (d, 1H), 4.95 (d, 1H), 4.71 (d, 1H), 3.82-3.62 (m, 2H), 1.75-1.63 (m, 2H), 1.43-1.34 (m, 4H), 0.85 (t, 3H); MS (ES+) m/z 400.4 (M+1).

reactant | 5-bromo-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | BrC=1C=CC2=C(C1)C1(C(N(C3=CC=CC=C13)CCCCC)=O)CO2 | C20H20BrNO2
reactant | 6-bromo-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | BrC1=CC2=C(C=C1)C1(C(N(C3=CC=CC=C13)CCCCC)=O)CO2 | C20H20BrNO2
product | 1′-pentyl-5-phenoxyspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | 10% yield | C(CCCC)N1C(C2(C3=CC=CC=C13)COC1=C2C=C(C=C1)OC1=CC=CC=C1)=O | C26H25NO3
